US09163023B2
(Z)-N′-hydroxy-4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carboximidamide 2 Hydrochloride
A mixture of 4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carbonitrile (632 mg, 3.24 mmol), Ethanol (10 mL), hydroxylamine hydrochloric acid (257 mg, 3.70 mmol) and Na2CO3 (785 mg, 7.40 mmol) was heated to 80° C. After 1.5 h, the solids were filtered off and the filtrate concentrated in vacuo. The residue was dissolved into a minimum amount of methanol and treated with 5 mL of 1 M of HCl/Ether and diluted by acetone. Resulting solids were collected and dried in vacuo to afford the title compound (566 mg, 1.879 mmol, 76% yield) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm=11.88 (br. s., 4H), 11.20 (br. s., 1H), 10.17 (br. s., 1H), 8.26 (br. s., 2H), 4.09-3.87 (m, 5H), 3.69-3.49 (m, 4H), 3.42 (br. s., 1H), 3.26 (t, J=11.5 Hz, 2H), 3.17-2.98 (m, 2H), 2.00 (d, J=11.1 Hz, 2H), 1.83-1.64 (m, 2H); LC/MS (m/z) ES+ (ELSD)=229.2 (M+1).

reactant | 4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carbonitrile | 3.24 mmol, 632 mg | O1CCC(CC1)N1CCN(CC1)C#N | C10H17N3O
reactant | hydroxylamine hydrochloric acid | 3.70 mmol, 257 mg | Cl.NO
reactant | Na2CO3 | 7.40 mmol, 785 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | (Z)-N′-hydroxy-4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carboximidamide | 1.879 mmol, 566 mg, 76% yield | O\N=C(\N)/N1CCN(CC1)C1CCOCC1 | C10H20N4O2
